US08791108B2
Ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(7-fluoro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate
A mixture of (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (300 mg, 0.613 mmol), 7-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine (prepared according to the procedure described in WO 2009/062285; 205 mg, 0.736 mmol) and 2N Na2CO3 (0.613 mL, 1.226 mmol) in DMF (6 mL) was degassed for 15 min. Tetrakis(triphenylphosphine)palladium(0) (49.6 mg, 0.043 mmol) was added and the degassing was continued for another 5 min. The mixture was then heated at 100° C. for 16 h. At this point LCMS indicated completion of reaction and presence of desired product. After cooling to room temperature, water was added (50 mL) and the mixture was extracted with ethyl acetate (2×100 mL), washed with brine (100 mL), dried (Na2SO4), filtered and concentrated. The crude was then purified by prep-HPLC to afford ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(7-fluoro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate (approx 10-15% of minor atrope isomer present by LCMS and NMR). 1H NMR (500 MHz, CDCl3) δ 7.11 (s, 1H), 6.74 (dd, J=8.3, 1.8 Hz, 2H), 5.17 (s, 1H), 4.48-4.33 (m, 4H), 4.24 (t, J=7.0 Hz, 2H), 3.83 (br. s., 1H), 3.51-3.41 (m, 2H), 2.70 (s, 3H), 1.43-1.39 (m, 3H), 1.31-1.26 (m, 3H), 1.05 (s, 9H). LCMS (M+H)=515.4.

reactant | (S)-ethyl 6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-iodo-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | 0.613 mmol, 300 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1I)N=C(C2)C(=O)OCC)C | C18H24IN3O5
reactant | 7-fluoro-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydro-2H-benzo[b][1,4]oxazine | FC=1C(=CC2=C(OCCN2)C1)B1OC(C(O1)(C)C)(C)C | C14H19BFNO3
reactant | Na2CO3 | 1.226 mmol, 2N, 0.613 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.043 mmol, 49.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 6-((S)-1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(7-fluoro-3,4-dihydro-2H-benzo[b][1,4]oxazin-6-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylate | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C1=CC3=C(OCCN3)C=C1F)N=C(C2)C(=O)OCC)C | C26H31FN4O6
